US08791300B2
(Z)-(2R)-[3-(3-Methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethyl-amine 201 g (0.86 mol) of a mixture of (Z)-(2R)-[3-(3-methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethyl-amine, (E)-(2R)-[3-(3-methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethyl-amine and by-products (see Example 1) are dissolved in 1 l of acetone and 15.5 g (0.86 mol) of water are added. 94.0 g (0.87 mol) of trimethylchlorosilane are then added dropwise and the mixture is stirred at 5° C.-8° C. for 72 h. The crystals which have precipitated out are filtered off with suction and rinsed with acetone. The product is then dried in a drying cabinet under 80-120 mbar at 40-50° C. The (Z)-(2R)-[3-(3-methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethyl-amine hydrochloride crude product obtained is dissolved in 513 ml of water and the solution is adjusted to a pH of 11-12 with sodium hydroxide solution. 500 ml of ethyl acetate are added to the aqueous solution and the product is extracted. The ethyl ester phase which has been separated off is dried over sodium sulfate and concentrated on a rotary evaporator. The (Z)-(2R)-[3-(3-methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethyl-amine obtained in this way is dissolved in 733 ml of acetone and 11.2 g (0.63 mol) of water are added. 67.8 g (0.63 mol) of trimethylchlorosilane are slowly added. The reaction mixture is stirred at 5-8° C. for 72 hours. The solid which has precipitated out is then filtered off with suction and rinsed with acetone. The product is dried in a drying cabinet under 80-120 mbar at 45-50° C. for 16 hours. The yield is 134.4 g (58%) with a purity of 100.0%. The ratio of Z to E isomer is 99.05:0.95.

reactant | (Z)-(2R)-[3-(3-Methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethyl-amine | 0.86 mol, 201 g | COC=1C=C(C=CC1)\C(\[C@H](CN(C)C)C)=C/C | C15H23NO
reactant | (E)-(2R)-[3-(3-methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethyl-amine | COC=1C=C(C=CC1)\C(\[C@H](CN(C)C)C)=C\C | C15H23NO
reactant | water | 0.86 mol, 15.5 g | O | H2O
reactant | trimethylchlorosilane | 0.87 mol, 94.0 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetone | 1 l | CC(=O)C | C3H6O
product | (Z)-(2R)-[3-(3-methoxy-phenyl)-2-methyl-pent-3-enyl]-dimethyl-amine hydrochloride | Cl.COC=1C=C(C=CC1)\C(\[C@H](CN(C)C)C)=C/C | InChI=1S/C15H23NO.ClH/c1-6-15(12(2)11-16(3)4)13-8-7-9-14(10-13)17-5;/h6-10,12H,11H2,1-5H3;1H/b15-6-;/t12-;/m0./s1
